US07482341B2
N-(5-Cyclopropylmethoxymethyl-pyridin-2-yl)-3-trifluoromethyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 5-cyclopropylmethoxymethyl-pyridin-2-ylamine (0.051 g) and 3-(trifluromethyl)-benzenesulfonyl chloride (0.077 g) as a crystalline white solid (0.062 g). MS (ESI−): 385.0 ([M−H]−)

reactant | 5-cyclopropylmethoxymethyl-pyridin-2-ylamine | 0.051 g | C1(CC1)COCC=1C=CC(=NC1)N | C10H14N2O
reactant | 3-(trifluromethyl)-benzenesulfonyl chloride | 0.077 g | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | N-(5-Cyclopropylmethoxymethyl-pyridin-2-yl)-3-trifluoromethyl-benzenesulfonamide | C1(CC1)COCC=1C=CC(=NC1)NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C17H17F3N2O3S
